US05271864
To a solution of 4-pentyl-3-cyclohexen-1-methanol (3.0 g) in pyridine (3.3 ml) at 0° C. was added p-toluenesulfonyl chloride (3.3 g). The reaction was stirred in an ice bath for 2 hours, and then stored at -20 ° C. for a further 16 hours. The reaction mixture was then poured into 2 M HCl (75 ml) and extracted with ethyl acetate. The combined organic layers were extracted with saturated sodium chloride and dried over sodium sulfate. The solvent was removed in vacuo to produce 4-pentyl-3-cyclohexen-1-methanol toluenesulfonate.

reactant | 4-pentyl-3-cyclohexen-1-methanol | 3.0 g | C(CCCC)C1=CCC(CC1)CO | C12H22O
reactant | p-toluenesulfonyl chloride | 3.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 2 M, 75 ml | Cl | ClH
reactant | pyridine | 3.3 ml | N1=CC=CC=C1 | C5H5N
product | 4-pentyl-3-cyclohexen-1-methanol toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)OCC1CC=C(CC1)CCCCC)C | C19H28O3S
